datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18]([C:19]([C:20]([H:30])([H:31])[H:32])[c:21]1[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]1[H:37])([H:27])([H:28])[H:29]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])([H:12])[C:19]([C:18]([H:27])([H:28])[H:29])([C:20]([H:30])([H:31])[H:32])[c:21]1[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]1[H:37])[H:11])[H:10],33.5138
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[S:18]([C:19]([c:20]1[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]1[H:32])[H:27])[H:26]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])[H:12])([H:8])([H:9])[H:10].[H:11][C:19]([S:18][H:26])([c:20]1[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]1[H:32])[H:27],43.5136
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10](=[C:11][C:12](=[C:13]([H:17])[H:18])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:11](=[C:10]([H:14])[H:15])[C:12](=[C:13]([H:17])[H:18])[H:16],28.4512
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([S:12][H:18])([H:16])[H:17])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:16])[H:4].[C:9](=[C:10]([C:11]([S:12][H:18])[H:17])[H:15])([H:13])[H:14],22.1752
[C:0]([C:1]([C:2]([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:0](=[C:1]([C:2]([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:13])[H:14])[H:12])([H:10])[H:11].[H:9],143.5112
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:14])[H:5].[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])[H:15])([H:11])([H:12])[H:13],78.2408
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17](=[C:18]([C:19]([C:20]([H:26])([H:27])[H:28])[C:21](=[C:22]([H:30])[H:31])[H:29])[H:25])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[C:19]([C:18](=[C:17]([H:23])[H:24])[H:25])([C:20]([H:26])([H:27])[H:28])[C:21](=[C:22]([H:30])[H:31])[H:29])[H:9])([H:7])[H:8],77.4877
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21](=[C:22]([C:23]([C:24]([H:29])([H:30])[H:31])[H:28])[H:27])([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:12])[C:23]([C:22](=[C:21]([H:25])[H:26])[H:27])([C:24]([H:29])([H:30])[H:31])[H:28])[H:11],46.1495
[C:0](=[C:1]([O:2][H:6])[H:5])([H:3])[H:4].[H:7]>>[C:0](=[C:1]([O:2])[H:5])([H:3])[H:4].[H:6][H:7],27.6981
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12](=[C:13]([C:14]([C:15](=[C:16]([H:22])[H:23])[H:21])[H:20])[H:19])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([C:3]([H:9])([H:10])[H:11])[C:14]([C:13](=[C:12]([H:17])[H:18])[H:19])([C:15](=[C:16]([H:22])[H:23])[H:21])[H:20])([H:4])[H:5],78.9521
[C:0]([C:1](=[C:2]([C:3]([C:4](=[C:5]([C:6]([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])[H:17])[H:16])([H:14])[H:15])[H:13])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])=[C:5]([H:17])[C:6]1([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])([H:9])([H:10])[H:11],102.173
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[H:16])([H:13])([H:14])[H:15]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])([H:6])[C:11]([C:10]([H:13])([H:14])[H:15])([C:12]([H:17])([H:18])[H:19])[H:16])([H:4])[H:5],22.1752
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:14]([C:13]([H:16])([H:17])[H:18])([C:15]([H:20])([H:21])[H:22])[H:19],-1.6736
[C:0]([C:1]([S:2][H:9])([C:3](=[S:4])[H:10])[H:8])([H:5])([H:6])[H:7].[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])[C:14](=[S:15])[H:22])([H:16])([H:17])[H:18]>>[C:0]([C:1]([S:2][H:9])[C:3](=[S:4])[H:10])([H:5])([H:6])[H:7].[H:8][C:12]([C:11]([H:16])([H:17])[H:18])([C:13]([H:19])([H:20])[H:21])[C:14](=[S:15])[H:22],32.2168
[H:0].[N:1]([O:2][H:4])[H:3]>>[H:0][H:4].[N:1](=[O:2])[H:3],1.58992
